* source FLYBACK_E7BAC
C_Co         0 OUT  10uF  TC=0,0 
X_D1    N35476 OUT Flyback_D1 
X_S1    N35672 0 S 0 Flyback_S1 
V_Vd         D 0 {d}
L_Ls         0 N35476  {Ns}  
V_Vduty         N35672 0  
+PULSE 0V 1V 0 1ns 1ns {d*T} {T}
L_Lp         IN S  {Np}  
V_Vi         IN 0 {Vi}
R_Rload         0 OUT  {Rl} TC=0,0 
Kn_K1         L_Lp L_Ls     1 RM8_3D3
.PARAM  vi=26v vo=21v k=1 po={(vo**2)/rl} al=3.525u rl=8.4r d=
+ {vo/(vi*ns/np+vo)} ns=18 t=10us np=18 fs={1/t}

.subckt Flyback_D1 1 2  
S_D1         1 2 1 2 _D1
RS_D1         1 2 1G
.MODEL         _D1 VSWITCH Roff=1G Ron=1m Voff=0 Von=0.5
.ends Flyback_D1

.subckt Flyback_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1G Ron=1.0m Voff=0.0V Von=1.0V
.ends Flyback_S1
